US07351733B2
6-Bromo-N-[5-(trifluoromethyl)pyridin-2-yl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (75 mg, 0.28 mmol) and 5-(trifluoromethyl)-2-bromopyridine (192 mg, 0.85 mmol) in a similar manner as described in Example 22 to give 6.5 mg (6%) of a off-white solid. 1H-NMR (DMSO-d6): δ 10.95 (s, 1H), 8.36 (s, 1H), 7.79 (d, 1H), 7.64 (dd, 1H), 7.57 (s, 1H), 7.23 (d, 1H), 7.13 (dd, 1H), 6.62 (d, 1H), 5.40-5.36 (m, 1H), 2.70-2.55 (m, 2H), 2.06-1.78 (m, 4H); MS m/z (M−1) 408, 410.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.28 mmol, 75 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 5-(trifluoromethyl)-2-bromopyridine | 0.85 mmol, 192 mg | FC(C=1C=CC(=NC1)Br)(F)F | C6H3BrF3N
product | 6-Bromo-N-[5-(trifluoromethyl)pyridin-2-yl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=C(C=C1)C(F)(F)F | C18H15BrF3N3
